US04057647
A solution of 2.62 g. of 1-(2',4'-difluoro-4-biphenylyl)-3-hydroxypropan-1-one, obtained by acylating 2,4-difluorobiphenyl with 3-methoxypropionyl chloride to give 1-(2',4'-difluoro-4-biphenylyl)-3-methoxypropan-1-one and subsequently effecting ether scission, in 20 ml. of THF is added dropwise, at 20° to stirred Grignard solution prepared from 3 g. of methyl iodide and 0.5 g. of magnesium in 100 ml. of ether. The mixture is stirred for 4 hours more and the resulting alcoholate is decomposed with water and dilute sulfuric acid. The reaction mixture is worked up in the custromary manner to give 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, m.p. 82°-84°.

reactant | 2,4-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
reactant | 3-methoxypropionyl chloride | COCCC(=O)Cl | C4H7ClO2
solvent | ether | CCOCC | C4H10O
product | 1-(2',4'-difluoro-4-biphenylyl)-3-methoxypropan-1-one | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCOC)=O | C16H14F2O2
